US06156884
Preparation of Bifunctional 2-Hydroxybenzohydroxamic Acid (Bifunctional-SHA) Magnetic Beads
Ten milliliters of unmodified M280 or M450 magnetic beads (Dynal) were gradually dehydrated into acetonitrile, and converted to aldehyde modified beads using oxalyl chloride activated N,N-dimethylsulfoxide and triethylamine in dichloromethane at -78° C. The resulting aldehyde bearing beads were gradually rehydrated and suspended in 5 mL of 0.1 M sodium acetate pH 5.5. The aldehyde groups were coupled N'-[(4-(N-hydroxycarbamoyl)-3-hydroxy-phenyl)methyl]-N-(2-{N-[2-(4-{N-[(N-hydroxycarbamoyl)-3-hydroxyphenyl)methyl]carbamoyl}-butanoylamino)ethyl]-4-(N-aminocarbamoyl)butanoylamino}ethyl)pentane-1,5-diamide (21Y-SHA-hydrazide) by adding 25 milligrams dissolved in 200 uL N,N-dimethylsulfoxide, and rotating coupling reaction over night at room temperature. The beads were then washed extensively with water and stored in 5 mL of 10% ethanol.

reactant | acetonitrile | C(C)#N | C2H3N
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | pentane-1,5-diamide | C(CCCC(=O)N)(=O)N | C5H10N2O2
reactant | sodium acetate | 0.1 M, 5 mL, pH 5.5 | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Hydroxybenzohydroxamic Acid | OC1=C(C(=O)NO)C=CC=C1 | C7H7NO3
